US05290957
526 mg (2.0 mmol) of 1-phenyl-1-t-butoxycarbonylamino-2-hydroxybut-3-ene, syn form, 20 cm3 of dry methylene chloride, 1.9 cm3 (20.0 mmol) of distilled ethyl vinyl ether and 50.2 mg (0.2 mmol) of pyridinium p-toluenesulphonate (PPTS) are introduced successively into a 50 cm3 single-necked flask placed under an argon atmosphere and equipped with a magnetic stirring system. The resulting homogeneous reaction mixture is left to react for 4.5 hours at a temperature of about 20° C. When the reaction is complete, 1 drop of pyridine is added and the reaction mixture is then diluted in 60 cm3 of methylene chloride. The organic phase is washed twice with water and twice with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulphate. After filtration, the solvents are driven off under reduced pressure on a rotary evaporator. The residue obtained is purified by passage over a column of silica gel using a hexane/ether mixture (8/2 by volume) as the eluent. 580 mg (1.73 mmol) of 1-phenyl-1-t-butoxycarbonylamino-2-(1-ethoxyethoxy)but-3-ene are obtained with a yield of 87% in the form of two epimers in a ratio of 55/45, said product having the following characteristics:

reactant | 1-phenyl-1-t-butoxycarbonylamino-2-hydroxybut-3-ene | 2.0 mmol, 526 mg | C1(=CC=CC=C1)C(C(C=C)O)NC(=O)OC(C)(C)C | C15H21NO3
reactant | ethyl vinyl ether | 20.0 mmol, 1.9 cm3 | C(=C)OCC | C4H8O
reactant | pyridinium p-toluenesulphonate | 0.2 mmol, 50.2 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
catalyst | pyridine | 1 drop | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 60 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 cm3 | C(Cl)Cl | CH2Cl2
product | 1-phenyl-1-t-butoxycarbonylamino-2-(1-ethoxyethoxy)but-3-ene | 1.73 mmol, 580 mg, yield of 87% | C1(=CC=CC=C1)C(C(C=C)OC(C)OCC)NC(=O)OC(C)(C)C | C19H29NO4
